US06884907B2
To 5-{3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2,2-dimethyl-5-[4-(methoxycarbonyl)phenyl]methyl-[1,3]dioxane-4,6-dione (5.38 g, 8.3 mmol) were added 50 mL of water, then 40 mL of 1,4-dioxane and finally a solution of NaOH (1.65 g, 41.4 mmol) in 20 mL of water. This mixture was heated at 100° C. for 2 h. The solution was then allowed to cool to rt. The solvent was removed under reduced pressure and the residue was partitioned between 100 mL of 10% KHSO4 and 100 mL of EtOAc. The organic layer was washed with brine, dried over Na2SO4, and concentrated to give 4.5 g of 2-{3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2-(4-carboxyphenyl)methyl-malonic acid as an off white powder (95% yield).

reactant | 5-{3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2,2-dimethyl-5-[4-(methoxycarbonyl)phenyl]methyl-[1,3]dioxane-4,6-dione | 8.3 mmol, 5.38 g | C(C1=CC=CC=C1)ON(C(CCC1(C(OC(OC1=O)(C)C)=O)CC1=CC=C(C=C1)C(=O)OC)=O)CC1=C(C=C(C=C1OC)OC)OC | C35H39NO11
reactant | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
reactant | NaOH | 41.4 mmol, 1.65 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2-{3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropyl}-2-(4-carboxyphenyl)methyl-malonic acid | 4.5 g | C(C1=CC=CC=C1)ON(C(CCC(C(=O)O)(C(=O)O)CC1=CC=C(C=C1)C(=O)O)=O)CC1=C(C=C(C=C1OC)OC)OC | C31H33NO11
